US04049417
Preparation of N-(2-Aminoethyl)-1,4-bis-(2-aminoethyl)cyclohexane
1,4-Bis-(2-aminoethyl)cyclohexane (68 gm., 0.4 mole) and ethyleneimine (4.3 gm., 0.1 mole) with 0.4 g. ammonium chloride are mixed in a glasslined pressure reactor and filled with nitrogen to 100 psi. The mixture is shaken and heated at 85°-95° C. for 48 hours. After cooling, it is distilled rapidly free of the salt and then fractionated under high vacuum. The starting diamine is readily distinguished from the triamine product by thin layer chromatography on silica gel using a mixture of 1 volume concentrated aqueous ammonium hydroxide with 4 volume methyl alcohol, the diamine having a much higher Rf.

reactant | 1,4-Bis-(2-aminoethyl)cyclohexane | 0.4 mole, 68 gm | NCCC1CCC(CC1)CCN | C10H22N2
reactant | ethyleneimine | 0.1 mole, 4.3 gm | C1CN1 | C2H5N
reactant | ammonium chloride | [Cl-].[NH4+]
product | N-(2-Aminoethyl)-1,4-bis-(2-aminoethyl)cyclohexane | NCCNCCC1CCC(CC1)CCN | C12H27N3
